US07652007B2
N-[6-(4-Chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]cyclobutanecarboxamide
Synthesis took place in analogy to Example 22 using cyclobutanecarbonyl chloride and 3-amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione. The desired product is obtained with MW=640.11 (calculated, monoisotopic); measured value (M+H)+: 641.09

reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 3-amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione | NC1CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl | C23H25Cl3N4O4S
product | N-[6-(4-Chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]cyclobutanecarboxamide | ClC1=CC=C(CC2C(N(CC3N2C(C(CN3S(=O)(=O)C3=C(C=C(C=C3)Cl)Cl)NC(=O)C3CCC3)=O)C(C)C)=O)C=C1 | C28H31Cl3N4O5S
